US08058045B2
tert-Butyl 3-((2-(5-cyanopyrazin-2-ylamino)-5-(3-(ethoxycarbonyl)-1H-pyrrol-1-yl)pyridin-4-ylamino)methyl)piperidine-1-carboxylate (3 mg, 0.005 mmol) was dissolved in methanol (1 mL) and absorbed onto a TsOH solid phase extraction cartridge. After 1.5 h the cartridge was eluted with 7M ammonia in methanol. The eluent was evaporated to dryness to give ethyl 1-(6-(5-cyanopyrazin-2-ylamino)-4-(piperidin-3-ylmethylamino)pyridin-3-yl)-1H-pyrrole-3-carboxylate.

reactant | tert-Butyl 3-((2-(5-cyanopyrazin-2-ylamino)-5-(3-(ethoxycarbonyl)-1H-pyrrol-1-yl)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.005 mmol, 3 mg | C(#N)C=1N=CC(=NC1)NC1=NC=C(C(=C1)NCC1CN(CCC1)C(=O)OC(C)(C)C)N1C=C(C=C1)C(=O)OCC | C28H34N8O4
solvent | methanol | 1 mL | CO | CH4O
product | ethyl 1-(6-(5-cyanopyrazin-2-ylamino)-4-(piperidin-3-ylmethylamino)pyridin-3-yl)-1H-pyrrole-3-carboxylate | C(#N)C=1N=CC(=NC1)NC1=CC(=C(C=N1)N1C=C(C=C1)C(=O)OCC)NCC1CNCCC1 | C23H26N8O2
